US05053427
a) Trans-5-Cyano-1,1-dimethyl-3-azido-indan-2-ol
A mixture of 5-cyano-1,1-dimethyl-2,3-epoxyindane (1.34g), sodium azide (0.533g), and ammonium chloride (0.44g) in dry N,N-dimethylformamide (20 ml) was stirred and heated at 60° C., under nitrogen, for 3h. The mixture was diluted with water, and extracted with ethyl acetate. The combined organic layers were washed with water, brine, and then dried (Na2SO4). Removal of solvents in vacuo, followed by chromatography of the residue (Si gel, eluted with 30% EtOAc in pentane) gave the title compound as a gum (0.93g).

reactant | 5-cyano-1,1-dimethyl-2,3-epoxyindane | 1.34g | C(#N)C=1C=C2C3C(C(C2=CC1)(C)C)O3 | C12H11NO
reactant | sodium azide | 0.533g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.44g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Trans-5-Cyano-1,1-dimethyl-3-azido-indan-2-ol | 0.93g | C(#N)C=1C=C2[C@H]([C@@H](C(C2=CC1)(C)C)O)N=[N+]=[N-] | C12H12N4O
